US06921759B2
5-(1,1-dioxidothiomorpholin-4-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide
A solution of N-(4-fluorobenzyl)-8-hydroxy-5-thiomorpholin-4-yl-1,6-naphthyridine-7-carboxamide (0.19 g, 0.49 mmol) in methanol (25 mL) was treated with an aqueous solution of Oxone (7.5 mL of a 1M solution, 0.75 mmol) and stirred at room temperature for 28 hr. The solvent was evaporated in vacuo and the residue partitioned between water and CH2Cl2. The organic extracts were purified by reverse phase HPLC. (Vydak C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 30 mL/min over 15 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | N-(4-fluorobenzyl)-8-hydroxy-5-thiomorpholin-4-yl-1,6-naphthyridine-7-carboxamide | 0.49 mmol, 0.19 g | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N2CCSCC2)C=C1 | C20H19FN4O2S
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | methanol | 25 mL | CO | CH4O
product | 5-(1,1-dioxidothiomorpholin-4-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | O=S1(CCN(CC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)=O | C20H19FN4O4S
